US04921855
A solution of 2(S)-t-butoxycarbonylamino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (600 mg) in trifluoroacetic acid (10 ml) was stirred at 0° C. for 30 minutes. After evaporation of the solvent, the residue was dissolved in ethyl acetate (20 ml). The solution was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and evaporated in vacuo to give 2(S)-amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (412 mg) as an oil.

reactant | 2(S)-t-butoxycarbonylamino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 600 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C19H37NO3
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2(S)-amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 412 mg | N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C14H29NO
